*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-02[uF]/250[V]
* Murata P/N :GCM21B5C2E103FX0A
* Property : C = 1.00e-02[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21B5C2E103FX0A Port1 Port2
C01 Port1 N01 1.00e-08
R01 Port1 N01 1.00e+11
L02 N01 N02 2.98e-10
R03 N02 N03 5.23e-03
C04 N03 N04 1.29e-06
R04 N03 N04 3.45e+00
L05 N04 N05 1.51e-10
R05 N04 N05 3.33e-01
L06 N05 N06 8.00e-11
R06 N05 N06 4.26e-03
C07 N06 N07 2.71e-08
L07 N06 N07 6.08e-11
R07 N06 N07 4.29e-01
C08 N07 N08 1.91e-08
L08 N07 N08 3.93e-11
R08 N07 N08 3.68e-01
C09 N08 N09 7.70e-08
L09 N08 N09 5.01e-12
R09 N08 N09 1.19e-01
C10 N09 Port2 3.49e-08
L10 N09 Port2 7.06e-12
R10 N09 Port2 1.27e-01
.ENDS GCM21B5C2E103FX0A
